US04118587
3-(4-Bromo-trans-2-butenylamino)-4-phenoxy-5-sulfamylbenzoic acid
A solution of 3-amino-4-phenoxy-5-sulfamylbenzoic acid (2 g) and 1,4-trans-dibromo-2-butene (3.2 g) in dioxane (35 ml) was heated to reflux overnight. The solvent was removed under reduced pressure and the dark, gummy residue was chromatographed on a silica gel column using chloroform/benzene/acetic acid/methanol (80:10:10:2.5) as the eluting solvent. The fractions containing the product were combined and concentrated leaving an acetic acid solution of it. This was diluted with water to give a cream colored powder which was filtered, dried and washed with pet. ether to remove unreacted dibromobutene. The resulting 3-(4-bromo-trans-2-butenylamino)-4-phenoxy-5-sulfamylbenzoic acid was an off-white solid 0.75 g (26%) with m.p. 191°-194°; ir (Nujol) 3350, 3200, 2600 (broad), 1690, 1605, 1585, and 1530 cm-1 ; nmr (CDCl3 /d6 -DMSO) 3.7-4.5 (m, 5H incl. NH), 5.73 (t, 2H, vinyl), 6.27 (s, SO2NH2), 6.8-7.4 (m, C6H5), 7.57 (d, J=2, CH), and 8.03 ppm (d, CH); mass spectrum is of decomposition products.

reactant | 3-amino-4-phenoxy-5-sulfamylbenzoic acid | 2 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O5S
reactant | 1,4-trans-dibromo-2-butene | 3.2 g | BrC\C=C\CBr | C4H6Br2
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-(4-Bromo-trans-2-butenylamino)-4-phenoxy-5-sulfamylbenzoic acid | BrC/C=C/CNC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H17BrN2O5S
